US07176199B2
Preparation of 1-(2-amino-6-methylpyrimidin-4-yl)piperidine-4-carboxylic acid ethyl ester:
A solution of 4-piperidinecarboxylic acid ethyl ester (6.6 g), 2-amino-4-chloro-6-methylpyrimidine (5.0 g) and triethylamine (4.2 g) in ethanol (50 ml) is stirred at 90° C. for 3 hours. Ethanol is evaporated under reduced pressure, and the residue is dissolved in chloroform, and washed with water. The organic layer is concentrated under reduced pressure to give the title compound.

reactant | 4-piperidinecarboxylic acid ethyl ester | 6.6 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | 2-amino-4-chloro-6-methylpyrimidine | 5.0 g | NC1=NC(=CC(=N1)Cl)C | C5H6ClN3
reactant | triethylamine | 4.2 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-amino-6-methylpyrimidin-4-yl)piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C1=NC(=NC(=C1)C)N | C13H20N4O2
